US05650533
A solution of titanium tetrachloride (10.4 g) in n-hexane (30 ml) was added dropwise with stirring to a solution of cyclopropyl methyl ketone (8.4 g) and diethylamine (43.9 g) in n-hexane (100 ml) whilst maintaining the temperature below 25° C. The mixture was stirred for 5 hours, filtered and the filtrate was evaporated to dryness to give 1-cyclopropyl-1-diethylaminoethene (5.3 g) as a pale yellow oil, NMR (CDCl3) d=0.5-0.8(m, 4H), 1.1(t, 6H), 1.4(m, 1H), 3:2(q, 4H), 3.45(s, 1H), 3.5(s, 1 H).

reactant | cyclopropyl methyl ketone | 8.4 g | CC(=O)C1CC1 | C5H8O
reactant | diethylamine | 43.9 g | C(C)NCC | C4H11N
solvent | n-hexane | 30 ml | CCCCCC | C6H14
solvent | n-hexane | 100 ml | CCCCCC | C6H14
catalyst | titanium tetrachloride | 10.4 g | [Ti](Cl)(Cl)(Cl)Cl
product | 1-cyclopropyl-1-diethylaminoethene | 5.3 g | C1(CC1)C(=C)N(CC)CC | C9H17N
